* model = BSIMSOI (DD)
*
*
* SOI Inverter - floating body

vin in 0 dc 2.5
vdd dd 0 dc 2.5
vss ss 0 dc 0
ve  e  0 dc 1.25
m1 out in dd e p1 w=20u l=0.25u 
m2 out in ss e n1 w=10u l=0.25u

.option itl1=500 gmin=1e-25 noacct
.dc vin 0 2.5 0.01 
.print dc v(in), v(out)
.include nmosdd.mod
.include pmosdd.mod
